US07968538B2
(R)-1-(3-(1-(5-Chloro-2,3-dimethoxyphenyl)ethylamino)-4-(methylsulfonyl)phenyl)pyrrolidin-3-amine
N-(1-(5-Chloro-2,3-dimethoxyphenyl)ethyl)-5-fluoro-2-(methylsulfonyl)benzenamine (100.0 mg, 0.26 mmol), pyrrolidin-3-amine (86.1 mg, 0.51 mmol), N,N-diisopropylethylamine (133.0 mg, 1.03 mmol) were stirred at 100° C. in dry acetonitrile (3 mL) for 16 h. The solvent was evaporated and the residue was dissolved in dichloromethane and washed with water. The dichloromethane was evaporated and the crude compound was purified by silica chromatography using 10% methanol in dichloromethane to afford the title compound (50.0 mg, 42.8% yield). 1H NMR (400 MHz, CDCl3): δ 7.52 (d, 1H), 6.88 (d, 1H), 6.76 (d, 1H), 6.51 (d, 1H), 6.89 (dd, 1H), 4.84 (m, 1H), 3.89 (s, 3H), 3.84 (s, 3H), 3.64 (m, 1H), 3.46-2.84 (m, 4H), 3.04 (s, 3H), 2.12 (m, 1H), 2.01 (s, 3H), 1.75, (m, 1H), 1.53 (d, 3H); MS (ESI) m/z: 454.1 (M+).

reactant | N-(1-(5-Chloro-2,3-dimethoxyphenyl)ethyl)-5-fluoro-2-(methylsulfonyl)benzenamine | 0.26 mmol, 100.0 mg | ClC=1C=C(C(=C(C1)C(C)NC1=C(C=CC(=C1)F)S(=O)(=O)C)OC)OC | C17H19ClFNO4S
reactant | pyrrolidin-3-amine | 0.51 mmol, 86.1 mg | N1CC(CC1)N | C4H10N2
reactant | N,N-diisopropylethylamine | 1.03 mmol, 133.0 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | (R)-1-(3-(1-(5-Chloro-2,3-dimethoxyphenyl)ethylamino)-4-(methylsulfonyl)phenyl)pyrrolidin-3-amine | 50.0 mg, 42.8% yield | ClC=1C=C(C(=C(C1)C(C)NC=1C=C(C=CC1S(=O)(=O)C)N1C[C@@H](CC1)N)OC)OC | C21H28ClN3O4S
